US03956183
B. Cyclohexylbenzene (Control Run)
A charge of 30 ml (23.9 g) of the above catalyst (0.25% Ru, 0.25% Ni) was placed in a 1/2-inch I.D. upflow tube reactor bedded with 30 ml of 3 mm glass beads and the catalyst was covered with 4 mm glass beads. The system was pressure checked, heated to 150°C, pressured to 500 psig H2 and benzene was pumped in at a rate of 120 ml/hr with a slight hydrogen flow during a reaction period of approximately 8 hours. The reactor effluent was collected in a receiver which was changed at approximately 1-hour intervals, and the composition of each sample was determined by glc analysis. The glc analyses of samples taken during the last 4 hours of the run were averaged and the results showed an 18.2% conversion based on benzene with a selectivity of 18% to cyclohexane and 67% to cyclohexylbenzene.

reactant | hydrogen | [H][H] | H2
reactant | benzene | C1=CC=CC=C1 | C6H6
product | Cyclohexylbenzene | C1(CCCCC1)C1=CC=CC=C1 | C12H16
